US09399636B2
Step 1: 2′,6′-dichloro-3,4′-bipyridine
2,6-dichloro-4-iodopyridine (500 mg, 1.77082 mmol), 3-pyridylboronic acid pinacol ester (487 mg, 1.3 equiv., 2.30207 mmol), PCy3 (112 mg, 0.22 equiv., 0.389581 mmol), and Pd2(dba)3 (84 mg, 0.050 equiv., 0.0885411 mmol) were mixed in acetonitrile (13 mL, 140 equiv., 247.915 mmol) and K3PO4 (1.27 M, 1.95 mL, 1.4 equiv., 2.47915 mmol), and the reaction was kept at 110° C. for 2 h. Brine and 10% citric acid was used to adjust the pH around 8. The mixture was extracted with EtOAc three times. After evaporation of the organic layers, the residue was purified via chromatography (0-70% EtOAc/Heptane) to yield 367 mg yellow powder 1H NMR (400 MHz, CDCl3) δ (delta) 8.86 (d, J=2.4 Hz, 1H), 8.74 (dd, J=4.8, 1.6 Hz, 1H), 7.92-7.86 (m, 1H), 7.47 (s, 2H), 7.45 (dd, J=7.9, 4.8 Hz, 1H). 13C NMR (101 MHz, CDCl3) δ (delta) 151.45, 151.24, 150.72, 148.02, 134.40, 131.63, 123.96, 120.75. LCMS: m/z 225 (M+H).

reactant | 2,6-dichloro-4-iodopyridine | 1.77082 mmol, 500 mg | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | 3-pyridylboronic acid pinacol ester | 2.30207 mmol, 487 mg, 1.3 equiv. | N1=CC(=CC=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
reactant | PCy3 | 0.389581 mmol, 112 mg, 0.22 equiv. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | acetonitrile | 247.915 mmol, 13 mL, 140 equiv. | C(C)#N | C2H3N
reactant | K3PO4 | 2.47915 mmol, 1.27 M, 1.95 mL, 1.4 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Brine | [Cl-].[Na+].O
catalyst | Pd2(dba)3 | 0.0885411 mmol, 84 mg, 0.050 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2′,6′-dichloro-3,4′-bipyridine | 367 mg | ClC1=NC(=CC(=C1)C=1C=NC=CC1)Cl | C10H6Cl2N2
